US05128355
A solution of 0.24 ml of oxalyl chloride in 5 mL of chloroform was added dropwise to a solution of 1 mL of dimethylformamide in 4 mL of chloroform at -20°. After this solution had been stirred at -20° for 20 minutes, 0.28 mL of N-methylmorpholine was added followed by 1.21 g of 1-[(2'-carboxybiphenyl-4-yl)-methyl]-2-butyl-4-chloro-5-(2-methoxyethoxymethoxymethyl)imidazole. After another 20 minutes at -20°, 0.55 ml of N-methylmorpholine and 1.35 mL of methoxylamine were added to the mixture. The reaction mixture was warmed slowly to 25°, stirred at 25° for 4 hours, and finally refluxed for 40 hours. After cooling the mixture was diluted with ethyl acetate. The resulting solution was washed with 10% hydrochloric acid, water, 10% sodium bicarbonate solution and brine. Finally the solution was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Column chromatography (elution: methanol/chloroform) furnished 0.21 g of 1-[(2'-methoxyaminocarbonylbiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-(2-methoxyethoxymethoxymethyl)imidazole. NMR (200 MHz, CDCl3) δ 7.85 (s 1H); 7.63 (d, 1H); 7.53-7.33 (m, 5H); 7.05 (d, 2H); 5.20 (s, 2H); 4.67 (s, 2H); 4.47 (s, 2H); 3.63 (m, 5H); 3.55 (m, 2H); 3.36 (s, 3H); 2.56 (t, 2H); 1.67 (m, 2H); 1.32 (m, 2H); 0.87 (t, 3H).

reactant | oxalyl chloride | 0.24 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-methylmorpholine | 0.28 mL | CN1CCOCC1 | C5H11NO
reactant | 1-[(2'-carboxybiphenyl-4-yl)-methyl]-2-butyl-4-chloro-5-(2-methoxyethoxymethoxymethyl)imidazole | 1.21 g | C(=O)(O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1COCOCCOC)Cl)CCCC | C26H31ClN2O5
reactant | N-methylmorpholine | 0.55 ml | CN1CCOCC1 | C5H11NO
reactant | methoxylamine | 1.35 mL | O(C)N | CH5NO
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 4 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-[(2'-methoxyaminocarbonylbiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-(2-methoxyethoxymethoxymethyl)imidazole | 0.21 g | CONC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1COCOCCOC)Cl)CCCC | C27H34ClN3O5
